US09422271B2
5-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)thiophene-2-sulfonamide (Compound 50)
A mixture of N-tert-butyl-5-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)thiophene-2-sulfonamide (300 mg, 0.717 mmol, 1.0 eq), BCl3/CH2Cl2 (7.17 ml, 7.17 mmol, 10 eq. 1 M) in CH2Cl2 (20 ml) was stirred at 20° C. under a nitrogen atmosphere for 6 h. Water (50 ml) was added into the mixture. The mixture was extracted by EA (3×50 ml). The combined organic phases were washed (sat NaHCO3), brine, dried (Na2SO4), filtered and concentrated. The residue was purified by recrystallization (solvent: EA/PE and DIPE) to afford title compound 5-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)thiophene-2-sulfonamide (Compound 50) (50.9 mg, 19.6%) as a yellow solid. LC-MS (m/z)=363.0 [M+H]+; 1H NMR (400 MHz, DMSO-d6): 0.72-0.74 (m, 2H), 0.94-0.99 (m, 2H), 1.89-1.94 (m, 1H), 6.41 (s, 1H), 6.84 (s, 1H), 7.58 (d, J=4 Hz, 1H), 7.49-7.81 (m, 3H), 8.29 (d, J=5.2 Hz, 1H), 10.08 (s, 1H), 12.14 (s, 1H).

reactant | N-tert-butyl-5-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)thiophene-2-sulfonamide | 0.717 mmol, 300 mg, 1.0 eq | C(C)(C)(C)NS(=O)(=O)C=1SC(=CC1)C1=NC=CC(=N1)NC1=NNC(=C1)C1CC1 | C18H22N6O2S2
reactant | BCl3 CH2Cl2 | 7.17 mmol, 1 M, 7.17 ml, 10 eq | B(Cl)(Cl)Cl.C(Cl)Cl
reactant | Water | 50 ml | O | H2O
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 5-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)thiophene-2-sulfonamide | 50.9 mg, 19.6% | C1(CC1)C1=CC(=NN1)NC1=NC(=NC=C1)C1=CC=C(S1)S(=O)(=O)N | C14H14N6O2S2
